US08067426B2
Intermediate 14: 2-(Butyloxy)-9-(4-chlorobutyl)-8-(methyloxy)-9H-purin-6-amine
2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate (2 g, 5.69 mmol) and potassium carbonate (1.967 g, 14.23 mmol) were suspended in DMF (20 ml) and heated to 50° C., under nitrogen for 30 mins. The mixture was cooled to room temperature, 1-bromo-4-chlorobutane (0.656 ml, 5.69 mmol) was added and stirring continued at room temperature for 20 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between DCM (40 ml) and water (40 ml). The layers were separated using a hydrophobic frit and the aqueous layer washed with DCM (10 ml). The combined organic extracts were concentrated in vacuo to give crude material that was purified by silica chromatography using the FlashMaster (70 g cartridge) eluting with a cyclohexane:ethyl acetate 0-100% gradient over 30 mins. The product-containing fractions were combined and evaporated to give the title compound as a white solid (1.4 g).

reactant | 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate | 5.69 mmol, 2 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 14.23 mmol, 1.967 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 5.69 mmol, 0.656 ml | BrCCCCCl | C4H8BrCl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(Butyloxy)-9-(4-chlorobutyl)-8-(methyloxy)-9H-purin-6-amine | 1.4 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCl)OC)N | C14H22ClN5O2
